US08022075B2
4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)-1-benzenecarbothioamide (6)
4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzonitrile (345 mg) and thioacetamide (150 mg) were added to a saturated solution (5 mL) of hydrogen chloride in dimethylformamide. The mixture was heated at 80° C. for 4 hours, and the solvent was evaporated. Saturated sodium hydrogencarbonate was added to the residue, followed by recovering the solid through filtration and drying, to thereby yield the title compound (269 mg).

reactant | 4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzonitrile | 345 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C#N)C=C2 | C14H8IN3
reactant | thioacetamide | 150 mg | C(C)(=S)N | C2H5NS
reactant | hydrogen chloride | 5 mL | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)-1-benzenecarbothioamide | 269 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C(N)=S | C14H10IN3S
